* SPICE netlist of Part1-Parser.pdf

R2 1 2 1
V2 3 2 0.2
R6 3 4 0.1
V1 5 0 2
I2 0 6 1e-3
V3 7 6 2
I1 4 8 1e-3
R1 1 5 1.5
R3 5 2 50
R4 5 6 0.1
R5 2 6 1.5
R7 8 0 1e3
R8 4 0 10

L1 1 2 0.2
C1 4 8 1e-6
